US04666510
Ethoxyaminehydrochloride (0.36 g, 3.7 mmole) and then sodium hydroxide (0.15 g, 3.7 mmole) were added to a solution of 3-hydroxy-5-(2,4,6-trimethyl-3,5-dinitrophenyl)-2-propionylcyclohex-2-en-1-one (1.0 g; 2.7 mmole) in absolute ethanol (80 ml). The mixture was stirred at room temperature for a period of 24 hours and then the ethanol was removed by evaporation under reduced pressure. The residue was treated with dichloromethane and the organic phase was washed twice with water and then dried over anhydrous sodium sulfate. The solvent was removed by evaporation under reduced pressure and the product recrystallized from ethanol to give 2-[1-(ethoxyimino)propyl]-3-hydroxy-5-(2,4,6-trimethyl-3,5-dinitrophenyl)cyclohex-2-en-1-one (0.45 g; 39.8%) as a white solid, mp 170° C.

reactant | Ethoxyaminehydrochloride | 3.7 mmole, 0.36 g | Cl.C(C)ON
reactant | sodium hydroxide | 3.7 mmole, 0.15 g | [OH-].[Na+]
reactant | 3-hydroxy-5-(2,4,6-trimethyl-3,5-dinitrophenyl)-2-propionylcyclohex-2-en-1-one | 2.7 mmole, 1.0 g | OC1=C(C(CC(C1)C1=C(C(=C(C(=C1C)[N+](=O)[O-])C)[N+](=O)[O-])C)=O)C(CC)=O | C18H20N2O7
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2-[1-(ethoxyimino)propyl]-3-hydroxy-5-(2,4,6-trimethyl-3,5-dinitrophenyl)cyclohex-2-en-1-one | 0.45 g, 39.8% | C(C)ON=C(CC)C=1C(CC(CC1O)C1=C(C(=C(C(=C1C)[N+](=O)[O-])C)[N+](=O)[O-])C)=O | C20H25N3O7
